US07084154B2
Acetic acid (0.39 mL) and dimethylamine (0.85 mL of a 40% aqueous solution) were added to a suspension of paraformaldehyde (0.21 g) in 25 mL ethanol. The mixture was heated to reflux until it was clear. The solution was cooled to rt and a solution of 5-methoxy-4-methyl-indole (1.0 g) in 25 mL of ethanol was added. The reaction was heated to reflux for 3 h. The volatiles were removed in vacuo to yield (5-methoxy-4-methyl-1H-indol-3-ylmethyl)-dimethylamine (1.0 g).

reactant | Acetic acid | 0.39 mL | C(C)(=O)O | C2H4O2
reactant | dimethylamine | CNC | C2H7N
reactant | paraformaldehyde | 0.21 g | C=O | CH2O
reactant | 5-methoxy-4-methyl-indole | 1.0 g | COC=1C(=C2C=CNC2=CC1)C | C10H11NO
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (5-methoxy-4-methyl-1H-indol-3-ylmethyl)-dimethylamine | 1.0 g | COC=1C(=C2C(=CNC2=CC1)CN(C)C)C | C13H18N2O
